US06653471B2
To a solution of 110 mg (1.2 mmol) of 2-aminopyridine in 2 mL of methylene chloride is added dropwise 0.5 mL (1.0 mmol) of trimethyl aluminum (2M solution in toluene). This mixture is stirred at room temperature for ½ hour. The resulting solution is then added dropwise to a 68 mg (0.2 mmol) solution of 5-Benzyl-3,4,5,6-tetrahydro-3,5,10-triaza-benzo[e]azulene-1-carboxylic acid methyl ester dissolved in 8 mL of methylene chloride and the mixture heated to 40° C. for 4 hours. The reaction mixture is quenched with the dropwise addition of 0.75 mL of 1N NaOH and then dried with anhydrous Na2SO4 The reaction mixture is filtered, and the filtrate evaporated. The residue is chromatographed on 9 grams of silica gel using 50/1 chloroform/methanol as the eluant. Appropriate fractions are combined and evaporated to yield 65 mg of 5-benzyl-3,4,5,6-tetrahydro-3,5,10-triaza-benzo[e]azulene-1-carboxylic acid pyridin-2-ylamide. 1H NMR (CDCl3) δ14.1 (s, 1H), 11.0 (s, 1H), 8.8 (m, 1H), 8.4 (m, 2H), 7.7 (s, 1H), 7.6 (m, 2H), 7.4 (m, 6H), 6.95 (m, 1H), 3.7 (s, 2H), 3.55 (s, 2H), 3.50 (s, 2H). Mass spectrum: m/e=396.3 (p+1). TLC (10/1 chloroform/methanol) Rf=0.6

reactant | 2-aminopyridine | 1.2 mmol, 110 mg | NC1=NC=CC=C1 | C5H6N2
reactant | trimethyl aluminum | 1.0 mmol, 2M, 0.5 mL | C[Al](C)C
reactant | 5-Benzyl-3,4,5,6-tetrahydro-3,5,10-triaza-benzo[e]azulene-1-carboxylic acid methyl ester | COC(=O)C1=CNC=2CN(CC3=C(C12)N=CC=C3)CC3=CC=CC=C3 | C20H19N3O2
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 8 mL | C(Cl)Cl | CH2Cl2
product | 5-benzyl-3,4,5,6-tetrahydro-3,5,10-triaza-benzo[e]azulene-1-carboxylic acid pyridin-2-ylamide | 65 mg | N1=C(C=CC=C1)NC(=O)C1=CNC=2CN(CC3=C(C12)N=CC=C3)CC3=CC=CC=C3 | C24H21N5O
